US07700628B2
A. Methyl 4-benzyloxy-2-hydroxybenzoate
Methyl 2,4-dihydroxybenzoate (20.0 g, 0.119 mol) was dissolved in DMF (400 mL) and potassium carbonate (17.2 g, 0.125 mol) and benzyl bromide (21.4 g, 0.125 mol) were added using additional DMF (400 mL) to aid the transfer. Potassium iodide (3.0 g) was added, and the reaction was stirred at room temperature under nitrogen for 48 h. The DMF was removed in vacuo and the residue was dissolved in ethyl acetate, washed with water and brine, dried, and the solvent was removed in vacuo to give a white solid which was recrystallized from ethyl acetate:hexane to yield 17.9 g (61.1%) of a white solid.

reactant | Methyl 2,4-dihydroxybenzoate | 0.119 mol, 20.0 g | OC1=C(C(=O)OC)C=CC(=C1)O | C8H8O4
reactant | potassium carbonate | 0.125 mol, 17.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.125 mol, 21.4 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Potassium iodide | 3.0 g | [I-].[K+]
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
product | Methyl 4-benzyloxy-2-hydroxybenzoate | 17.9 g, 61.1% | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1)O | C15H14O4
